US06660753B2
A solution of methyl 3-cyano-5-(methoxymethyl)benzoate (184 mg, 0.75 mmol) in tetrahydrofuran (2.1 mL) was treated with 0.5 N lithium hydroxide (1.8 mL, 0.90 mmol). The reaction was stirred at 70° C. for 30 minutes and then after cooling the solvent was removed in vacuo. The residue was dissolved in a small amount of water and then acidified with 2 N hydrogen chloride until pH˜2-3. Following extraction of the aqueous layer with ethyl acetate, the organic layer washed with water and saturated brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford 145 mg (quantitative) of 3-cyano-5-(methoxymethyl)benzoic acid.

reactant | methyl 3-cyano-5-(methoxymethyl)benzoate | 0.75 mmol, 184 mg | C(#N)C=1C=C(C(=O)OC)C=C(C1)COC | C11H11NO3
reactant | lithium hydroxide | 0.90 mmol, 0.5 N, 1.8 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 2.1 mL | O1CCCC1 | C4H8O
product | 3-cyano-5-(methoxymethyl)benzoic acid | 145 mg | C(#N)C=1C=C(C(=O)O)C=C(C1)COC | C10H9NO3
